US07893058B2
Step 2: 3-Aminomethyl-thiophene-2-carboxylic acid methyl ester
3-Bromomethyl-thiophene-2-carboxylic acid methyl ester (1.297 g, 5.54 mmol) is dissolved in DMF (30 mL) and MeOH/NH3 is added (30 mL). The reaction mixture is stirred at room temperature for 1 hour, and concentrated in vacuo. Purification of the residue by silica gel column chromatography eluting with 95:5 and 93:7 DCM:MeOH affords the title compound (0.82 g, 86%).

reactant | 3-Bromomethyl-thiophene-2-carboxylic acid methyl ester | 5.54 mmol, 1.297 g | COC(=O)C=1SC=CC1CBr | C7H7BrO2S
reactant | MeOH NH3 | CO.N
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 3-Aminomethyl-thiophene-2-carboxylic acid methyl ester | 0.82 g, 86% | COC(=O)C=1SC=CC1CN | C7H9NO2S
